US08859535B2
(4-Bromo-phenyl)-(tetrahydro-pyran-4-yl)-methanol
To a solution of 1-bromo-4-iodobenzene (31.1 g, 110 mmol) in THF (300 ml) (under argon atmosphere) was added isopropylmagnesium chloride (2M in THF) (60 ml, 120 mol) during 10 min at −25° C. The solution was stirred for 1 h at −20° C. and then warmed up to 0° C. and tetrahydro-pyran-4-carbaldehyde (10.98 ml, 100 mmol) was added dropwise over 10 min at 0-7° C. The reaction mixture was quenched with 1M NH4Cl (500 ml) and extracted with EtOAc (2×). The organic phases were washed with water and brine, dried over Na2SO4, filtered and evaporated to dryness. The residue was crystallized from DCM-diisopropyl ether (1:2) to give the title compound as a white solid (24.32 g, 90 mmol, 90%): HPLC: CtRet=4.43 min; 1H-NMR (400 MHz, DMSO-d6): δ 1.07 (d, 1H), 1.21 (m, 2H), 1.62 (m, 2H), 3.15 (m, 2H), 3.78 (m, 2H), 4.23 (m, 1H), 5.26 (d, 1H), 7.35 (dd, 4H)

reactant | 1-bromo-4-iodobenzene | 110 mmol, 31.1 g | BrC1=CC=C(C=C1)I | C6H4BrI
reactant | isopropylmagnesium chloride | 120 mol, 2M, 60 ml | C(C)(C)[Mg]Cl
reactant | tetrahydro-pyran-4-carbaldehyde | 100 mmol, 10.98 ml | O1CCC(CC1)C=O | C6H10O2
solvent | THF | 300 ml | C1CCOC1 | C4H8O
product | (4-Bromo-phenyl)-(tetrahydro-pyran-4-yl)-methanol | 90 mmol, 24.32 g, 90% | BrC1=CC=C(C=C1)C(O)C1CCOCC1 | C12H15BrO2
